US09107916B2
A. ethyl (2E)-3-[2-(4-cyanopyridin-2-yl)hydrazinyl]prop-2-enoate
To a solution of 2-hydrazinylisonicotinonitrile (500 mg, 3.73 mmol, PREPARATION 2) and ethyl (2E)-3-(dimethylamino)prop-2-enoate (534 mg, 3.73 mmol) in 20 mL EtOH was added 4 mL AcOH, before the mixture was heated under reflux conditions overnight. The reaction mixture was cooled and concentrated to dryness. The residue was adjusted to pH >8 with sat'd. aq. NaHCO3 and extracted with EtOAc. The combined organic layers were washed with brine, dried, and concentrated to dryness. The residue was purified by flash column chromatography (PE/EtOAc=5/1) to give the title compound (300 mg, 35%) as a yellow solid. [M+H] Calc'd for C11H12N4O2, 233. Found, 233.

reactant | 2-hydrazinylisonicotinonitrile | 3.73 mmol, 500 mg | N(N)C=1C=C(C#N)C=CN1 | C6H6N4
reactant | ethyl (2E)-3-(dimethylamino)prop-2-enoate | 3.73 mmol, 534 mg | CN(/C=C/C(=O)OCC)C | C7H13NO2
reactant | AcOH | 4 mL | CC(=O)O | C2H4O2
solvent | EtOH | 20 mL | CCO | C2H6O
product | ethyl (2E)-3-[2-(4-cyanopyridin-2-yl)hydrazinyl]prop-2-enoate | 300 mg, 35% | C(#N)C1=CC(=NC=C1)NN/C=C/C(=O)OCC | C11H12N4O2
